Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever, back pain, vomiting, diarrhea 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ with history of IVDU who is currently homeless
who presents to ___ with a 2 day history of fever, back pain,
vomiting and diarrhea. Her history is a bit unclear but she
states her symptoms began yesterday. She actively uses
methamphetamines and heroin, and her last use of meth was today
and heroin yesterday. She states her back pain began after
lifting something heavy but cannot provide more history. She 
went
to ___ today and it was thought by other people in the store
that she was overdosing and an ambulance was called. She reports
having diarrhea 2x and vomiting 2x in the last day. She denies
abdominal pain, sick contacts, SOB. +Headache, general malaise,
and nausea. Does have numbness and tingling of her fingertips 
but
this is not new for her ___ months), denies numbness or 
tingling
of her legs or any weakness. No bowel or bladder incontinence. 

In the ED she had an MRI of her spine which was unrevealing for
abscess or acute process. She was seen by neurosurgery who did
not feel any acute intervention was required. As she was noted 
to
be febrile, she was admitted to the medical service for further
workup. 

ED Course:
NS 1L iv bolus x 3
Vancomycin 1.5g iv x1
Cefepime 2g iv x1
Ativan 1g iv x1

 
Past Medical History:
IVDA
Hepatitis C
Polysubstance abuse
Cholecystectomy
Per records: also has a history of bipolar d/o and ADHD
Hx of MRSA infection (cellulitis) ___ at ___
 
Social History:
___
Family History:
None significant per patient. Per records, father with TB, 
mother
with alcoholism and seizures. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS T 100.9 (tmax 102.8), HR 116, BP 109/35, RR 18, O2 99% RA
Gen - no distress, appears uncomfortable but is resting in bed,
appears a bit fatigued
HEENT - nc/at, moist oral mucosa, +slight ptosis of left eyelid,
PERRL, EOMI
Neck - supple, no LAD or JVD, no nuchal rigidity 
___ - tachycardic, regular rhythm, s1/2, no murmurs/rubs/gallops
appreciated
Lungs - cta b/l, no w/r/r
Abd - soft, NT, ND, +BS, no rebound/guarding/rigidity
Ext - no edema or cyanosis
Skin - warm, dry, +multiple tattoos, +injection marks on her
hands but with no visible abscess/erythema at any of the
injection sites
Psych - calm, cooperative, slurs her words intermittently and
falls asleep but is easily woken up
Neuro - motor ___n2-12 intact. Speech is clear but as
above when she falls asleep gets slurred. States she does not
know where she is but knows she is in the hospital and is able 
to
recount history of today's events and being brought to the
hospital

DISCHARGE PHYSICAL EXAM:
VS: afebrile, HDS, HDS
Gen: well-appearing young woman, laying in bed.  Fatigued but
otherwise in NAD
HEENT: nc/at, moist oral mucosa, +slight ptosis of left eyelid,
PERRL, EOMI
Neck: supple, no LAD or JVD, no nuchal rigidity 
___: tachycardic, regular rhythm, s1/2, no murmurs/rubs/gallops
appreciated
Lungs: cta b/l, no w/r/r
Abd: soft, NT, ND, +BS, no rebound/guarding/rigidity
Ext: no edema or cyanosis
Skin: warm, dry, +multiple tattoos, +injection marks on her 
hands
but with no visible abscess/erythema at any of the injection
sites
Psych: calm, cooperative, pleasant
Neuro: motor ___n2-12 intact. AOx3
 
Pertinent Results:
ADMISSION LABS:
___ 11:50AM BLOOD Glucose-119* UreaN-21* Creat-1.0 Na-139 
K-4.1 Cl-99 HCO3-25 AnGap-15
___ 11:50AM BLOOD ALT-86* AST-137* AlkPhos-200* TotBili-1.5
___ 06:50AM BLOOD Calcium-8.0* Phos-3.9 Mg-1.8
___ 06:03AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 06:50AM BLOOD HIV Ab-NEG
___ 06:03AM BLOOD HCV Ab-POS*
___ 06:03AM BLOOD HCV VL-PND

DISCHARGE LABS:
___ 07:03AM BLOOD WBC-7.4 RBC-3.83* Hgb-11.8 Hct-35.1 
MCV-92 MCH-30.8 MCHC-33.6 RDW-13.4 RDWSD-45.5 Plt ___
___ 07:03AM BLOOD Glucose-91 UreaN-10 Creat-0.7 Na-144 
K-4.0 Cl-107 HCO3-27 AnGap-10
___ 06:03AM BLOOD ALT-65* AST-63* AlkPhos-98 TotBili-0.3
___ 07:03AM BLOOD Calcium-8.9 Mg-1.8

MICRO:
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE: NGTD 
___ BLOOD CULTURE: NGTD

___ MRI C spine 
1. Within the confines of this study there is no evidence of
spondylodiscitis 
or epidural abscess/collection. 
2. Mild cervical and lumbar spondylotic changes as described
above. 

___ CXR 
The heart and great vessels are normal.  The lungs are clear of
an active 
process and well expanded.  There is no pleural effusion or
pneumothorax. 

___ TTE:
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). The estimated cardiac index is normal 
(>=2.5L/min/m2). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. Trivial 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. 

 IMPRESSION:Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. No obvious 
evidence of endocarditis. If clinically indicated can consider 
TEE.  
 
Brief Hospital Course:
___ hx polysubstance abuse and IVDA presents with fever and back 
pain x 2 days. 

#Sepsis, back pain
#Abdominal pain, n/v/d
Pt presenting with fever, leukocytosis and tachycardia with 
source initially thought to be related to epidural abscess. MRI 
unremarkable for this, seen by neurosurgery in ED who felt the 
spine not to be the source. Back pain self-resolved on 
admission. 
However, pt still c/o some persistent GI symptoms during the 
admission including epigastric pain, nausea, mild diarrhea.  
Likely etiologies of fever on presentation include transient 
bacteremia vs. gastroenteritis (pt reports "dumpster diving" for 
food).  Blood cultures are no growth >72 hours on discharge and 
TTE negative for endocarditis.  She was briefly treated with 
broad spectrum abx (vanc/zosyn->CTX) until blood cultures were 
negative x48 hours.  She did not spike any further fevers on the 
floor and GI symptoms were resolving on discharge.  She was 
otherwise tolerating a regular diet.

# IVDU/homelessness
Pt with reported history of IVDU with heroin/fentanyl and recent 
meth use.  Per SW, pt also with history of bipolar d/o, known to 
BEST team.  She was seen by the BEST team and plan to d/c to ___ 
for further management of substance abuse/psych issues.

# Elevated LFT's
# Chronic HCV
LFT's are notably elevated however review of At___ records show 
her LFT's are around where they were in ___.  Possibly d/t 
HCV (pt reports hx and HCV ab positive) vs. substance related 
ischemic injury.  Improved with supportive treatment.  Pt will 
need to see PCP ___ for further discussion of tx 
options.

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Facility:
___
 
Discharge Diagnosis:
Polysubstance abuse
Likely gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with fevers, abdominal pain, nausea, and diarrhea.  
We collected some blood cultures and did an echocardiogram of 
your heart which showed that you did not have endocarditis (or 
an infection of your heart valve).  We think that your symptoms 
were caused by a transient infection of your gut, a condition 
called gastroenteritis caused by a virus or by eating spoiled 
foods.

We also had you meet with the BEST team and the plan is for you 
to be discharged to a Crisis Stabilization Unit where you can 
get some treatment for your recent substance use.

Please return if you have fevers, chills, recurrent vomiting, 
abdominal pain, or if you have any other concerns.

It was a pleasure caring for you at ___ 
___.
 
Followup Instructions:
___